US06461694B1
(1a) Synthesis of 4-(4-Hydroxybutyloxy)cinnamic Acid
In a 1 L three neck distillation flask, p-hydroxybenzaldehyde (40.0 g, 328 mmol), 4-chlorobutylacetate (54.3 g, 360 mmol), potassium carbonate (45.3 g, 32.8 mmol) and dimethylformamido (150 ml) were placed and stirred for 3 hours at 120° C. After the reaction mixture was cooled, water was added and the resulting mixture was extracted with ethyl acetate. The solvent was removed to obtain an oily product. To the product, malonic acid (40.8 g, 392 mmol), pyrrolidine (10 ml) and pyridine (200 ml) were added and stirred for 2 hours at 120° C. The mixture was cooled to 60° C., and methanol (200 ml) and 40 wt. % potassium hydroxide aqueous solution (200 ml) were added and stirred for 2 hours at 60° C. The mixture was cooled, and then poured into a dilute hydrochloric acid (prepared by diluting 330 ml of concentrated hydrochloric acid with 4 L water) The deposited crystalline product was collected by filtration, and recrystallized from acetonitrile to obtain the titled compounds (65.6 g, yield: 85%).

reactant | p-hydroxybenzaldehyde | 328 mmol, 40.0 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 4-chlorobutylacetate | 360 mmol, 54.3 g | ClCCCCOC(C)=O | C6H11ClO2
reactant | potassium carbonate | 32.8 mmol, 45.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | malonic acid | 392 mmol, 40.8 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyrrolidine | 10 ml | N1CCCC1 | C4H9N
reactant | potassium hydroxide | 200 ml | [OH-].[K+]
reactant | hydrochloric acid | 330 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 4-(4-Hydroxybutyloxy)cinnamic Acid | 65.6 g, yield: 85% | OCCCCOC1=CC=C(C=CC(=O)O)C=C1 | C13H16O4
